data/oMe_Silver.jsonl
{"reaction_id": "NR-239_1-C1CCCCC1_2-N(C)C_3-c1ccccc1_4-c1ccccc1","level": "medium","name": "Stetter Reaction","reactants_smiles": ["C1CCCCC1C(=O)[H]","C(c1ccccc1)=C(c1ccccc1)C(=O)N(C)C","[C-]#N"],"products_smiles": ["N(C)CC(=O)C(c1ccccc1)C(c1ccccc1)C(=O)C1CCCCC1"],"conditions": "","mechanism_step_nums": 5,"mechanism": [{"step": 1,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C1CCCCC1C([O-])C#N","step_weight": 0,"rationale": "Cyanide attacks the electrophilic carbonyl carbon of the aldehyde due to its strong nucleophilicity and the polarization of the C=O bond, forming a stabilized cyanohydrin anion."},{"step": 2,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C1CCCCC1[C-](O)C#N","step_weight": 0,"rationale": "Proton transfer occurs to generate the Breslow-type intermediate, driven by stabilization through resonance between the alkoxide and adjacent carbon."},{"step": 3,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C1CCCCC1C(O)(C#N)C(c1ccccc1)C(c1ccccc1)=C([O-])N(C)C","step_weight": 0,"rationale": "The nucleophilic Breslow intermediate attacks the β-carbon of the α,β-unsaturated carbonyl via conjugate addition, favored by resonance stabilization of the resulting enolate."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C1CCCCC1C([O-])(C#N)C(c1ccccc1)C(c1ccccc1)C(=O)N(C)C","step_weight": 0,"rationale": "Proton transfer converts the enolate into a neutral alcohol, driven by the high basicity of the enolate and the availability of proton donors in the medium."},{"step": 5,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "N(C)CC(=O)C(c1ccccc1)C(c1ccccc1)C(=O)C1CCCCC1","step_weight": 0,"rationale": "Elimination of cyanide regenerates the catalyst, favored by the formation of a conjugated carbonyl system and the good leaving group ability of cyanide under these conditions."}],"description": "In the Stetter reaction, a nucleophilic catalyst such as cyanide activates the aldehyde to form a Breslow-type intermediate, which then performs a Michael addition to an α,β-unsaturated carbonyl. Subsequent proton transfers and catalyst elimination yield the thermodynamically stable 1,4-dicarbonyl product."}
